US08471005B2
The compound was prepared in an analogous fashion to Example 522 using 7-[3-(pyrrolidine-1-sulfonyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ol and 2-[4-(4-amino-phenyl)-piperidin-1-yl]-ethanol to provide 2-[4-(4-{7-[3-(pyrrolidine-1-sulfonyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}phenyl)-piperidin-1-yl]ethanol as a brown lyophilate (49.2 mg, 25% yield). LCMS (E/I+) 547 (M+H). 1H NMR (400 MHz, DMSO-d6) δ 9.53 (s, 1H), 9.22 (broad s, 1H), 9.04 (s, 1H), 8.53 (s, 1H), 8.42 (d, 1H, J=7.6 Hz), 7.82 (m, 2H), 7.70 (d, 2H, J=8.5 Hz), 7.29 (d, 1H, J=4.7 Hz), 7.22 (d, 2H, J=8.4 Hz), 7.00 (d, 1H, J=4.7 Hz), 3.77 (t, 2H, J=5 Hz), 3.42 (d, 2H, J=11.9 Hz), 3.37 (m, 1H), 3.18 (m, 6H), 3.09 (m, 2H), 2.75 (m, 1H), 1.95 (m, 3H), 1.65 (m, 4H).

reactant | 7-[3-(pyrrolidine-1-sulfonyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ol | N1(CCCC1)S(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)O | C16H16N4O3S
reactant | 2-[4-(4-amino-phenyl)-piperidin-1-yl]-ethanol | NC1=CC=C(C=C1)C1CCN(CC1)CCO | C13H20N2O
product | 2-[4-(4-{7-[3-(pyrrolidine-1-sulfonyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}phenyl)-piperidin-1-yl]ethanol | 25% yield | N1(CCCC1)S(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C2CCN(CC2)CCO | C29H34N6O3S
